US07635778B2
3-hydroxy-2-(4-(3-hydroxy-4-oxo-4H-chromen-2-yl)phenyl)-4H-chromen-4-one
To a three necked round bottomed flask, equipped with reflux condenser, calcium chloride guard tube and nitrogen inlet and magnetic stirrer, was charged methanol (200 ml), Terephthalaldehyde (0.98 g) and 2-hydroxy acetophenone (2.04 g). The reaction mixture was cooled to 10-15° C. and sodium hydroxide (3 g) was added slowly and the reaction was stirred at room temperature (˜25° C.) for 24 hrs. Then methanol (200 ml) was added to the reaction and the reaction mixture was cooled below 15° C. and sodium hydroxide (3 g) and hydrogen peroxide (9 ml) were added to the reaction mixture and the reaction mixture was stirred for 6-8 hrs at room temperature. After this the reaction mixture was cooled to 10° C., neutralized using hydrochloric acid and the solid product that precipitated was filtered. The solid was washed with water till the filtrate is free of acid. The solid product was dried in oven at 70° C.

reactant | Terephthalaldehyde | 0.98 g | C(C1=CC=C(C=O)C=C1)=O | C8H6O2
reactant | 2-hydroxy acetophenone | 2.04 g | OCC(=O)C1=CC=CC=C1 | C8H8O2
reactant | sodium hydroxide | 3 g | [OH-].[Na+]
reactant | sodium hydroxide | 3 g | [OH-].[Na+]
reactant | hydrogen peroxide | 9 ml | OO | H2O2
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 200 ml | CO | CH4O
solvent | methanol | 200 ml | CO | CH4O
product | 3-hydroxy-2-(4-(3-hydroxy-4-oxo-4H-chromen-2-yl)phenyl)-4H-chromen-4-one | OC1=C(OC2=CC=CC=C2C1=O)C1=CC=C(C=C1)C=1OC2=CC=CC=C2C(C1O)=O | C24H14O6
